US04762949
(A) 5-(4,6-dimethyl-2-pyrimidylamino)-1-pentanamine (XII)
To 1,5-pentanediamine (1 g) dissolved in 10 ml water was added S-methylthiopseudourea sulfate (1.36 g) in 10 ml. of water. The amine solution was held at 45°-48° during the addition which took 1 hour. Stirring was continued for 8 hours. The volume was evaporated to about 10 ml under a stream of N2 on the steam bath. Ethanol (10 ml) and 10% NaHCO3 (10 ml) plus 10 ml of 2,4-pentanedione were added and the solution refluxed overnight. After brief cooling the solution was acidified to pH 1-2 and heated at 90° for 10 min. The cooled acidified mixture was then extracted thoroughly with ether, basified with 2N NaOH, and extracted with CHCl3. The combined CHCl3 extracts were evaporated to yield the crude product which was used without purification, wt 996 mg.

reactant | 1,5-pentanediamine | 1 g | C(CCCCN)N | C5H14N2
reactant | S-methylthiopseudourea sulfate | 1.36 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | water | 10 ml | O | H2O
product | 5-(4,6-dimethyl-2-pyrimidylamino)-1-pentanamine | CC1=NC(=NC(=C1)C)NCCCCCN | C11H20N4
